US05663164
84 ml of oxalyl chloride in 800 ml of ether was cooled to -60° C. and over half-an-hour, a solution of 94 ml of tert.-butanol, 80 ml of pyridine and 200 ml of ether was added. The temperature was allowed to rise to 0° C. with stirring for a further hour. After filtering and concentrating the filtrate dryness, the residue was distilled under reduced pressure to obtain 93 g of tert-butyloxalic acid chloride boiling at 13 mm Hg, 45°-46° C.

reactant | oxalyl chloride | 84 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tert.-butanol | 94 ml | C(C)(C)(C)O | C4H10O
reactant | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | 800 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | tert-butyloxalic acid chloride | 93 g | C(C)(C)(C)[ClH]C(C(=O)Cl)=O | C6H10Cl2O2
